US04489003
A mixture of 5.0 g (15.6 mmol) of ethyl 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate, 20 ml of hydroxymethyl-cyclopropane and 0.5 g of powdered potassium cyanide is heated to 130° for 18 hours, about 1 ml of solvent being distilled off after 1.3 hours and after 6 hours. The mixture is subseqently evaporated in vacuo and the residue is partitioned between chloroform and water. The chloroform phase is washed three times with water, dried over magnesium sulphate and evaporated. The material obtained is chromatographed on silica gel while eluting with ethyl acetate and subsequently crystallized from ethyl acetate. There is obtained cyclopropylmethyl 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate of melting point 194°-195°.

reactant | ethyl 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | 15.6 mmol, 5.0 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)OCC)C)=O | C15H14ClN3O3
reactant | potassium cyanide | 0.5 g | [C-]#N.[K+]
reactant | hydroxymethyl-cyclopropane | 20 ml | OCC1CC1 | C4H8O
product | cyclopropylmethyl 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)OCC1CC1)C)=O | C17H16ClN3O3
